US04322563
Step C: Preparation of Methyl (E)-7-[2,4-Dichloro-6-(4-fluorophenyl)phenyl]-3,5-dihydroxy-6-heptenoate
Sodium tetrahydridoborate (1.55 g, 41.1 mmole) is added with stirring to a cooled solution (5° C.) of methyl (E)-7-(2,4-dichloro-6-(4-fluorophenyl)phenyl)-5-hydroxy-3-oxo-6-heptenoate (82.3 mmole) in ethanol (200 ml) at a rate sufficient to maintain the internal temperature at 15°-20° C. The resulting solution is stirred with ice-bath cooling for 15 min. and then acidified with 6 N hydrochloric acid. The resulting mixture is diluted with water (500 ml) and extracted with ether (3×250 ml). The organic extracts are combined, washed with brine (4×100 ml), dried over magnesium sulfate and filtered. The filtrate is evaporated in vacuo, leaving the title compound as an oil.

reactant | Sodium tetrahydridoborate | 41.1 mmole, 1.55 g | [BH4-].[Na+]
reactant | methyl (E)-7-(2,4-dichloro-6-(4-fluorophenyl)phenyl)-5-hydroxy-3-oxo-6-heptenoate | 82.3 mmole | ClC1=C(C(=CC(=C1)Cl)C1=CC=C(C=C1)F)/C=C/C(CC(CC(=O)OC)=O)O | C20H17Cl2FO4
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | Methyl (E)-7-[2,4-Dichloro-6-(4-fluorophenyl)phenyl]-3,5-dihydroxy-6-heptenoate | ClC1=C(C(=CC(=C1)Cl)C1=CC=C(C=C1)F)/C=C/C(CC(CC(=O)OC)O)O | C20H19Cl2FO4
